US06852755B1
(i) 3-trifluoromethyl-4-[bis(2-hydroxyethyl)amino]benzonitrile
A solution of 3-trifluoromethyl 4-fluoro-benzonitrile (9.45 g, 50 mmol) and diethanolamine (15.8 g, 0.15 mol) in N,N-dimethylacetamide (200 ml) was stirred for 7 days at 50° C. The solvent was evaporated, the residue partitioned between CH2Cl2 (400 ml) and H2O (400 ml), the organic layer dried (MgSO4) and evaporated to dryness. The residue was chromatographed using CH2Cl2-EtOH as eluent.

reactant | 3-trifluoromethyl 4-fluoro-benzonitrile | 50 mmol, 9.45 g | FC(C=1C=C(C#N)C=CC1F)(F)F | C8H3F4N
reactant | diethanolamine | 0.15 mol, 15.8 g | N(CCO)CCO | C4H11NO2
solvent | N,N-dimethylacetamide | 200 ml | CN(C(C)=O)C | C4H9NO
product | 3-trifluoromethyl-4-[bis(2-hydroxyethyl)amino]benzonitrile | FC(C=1C=C(C#N)C=CC1N(CCO)CCO)(F)F | C12H13F3N2O2
